US07563805B2
tert-Butyl(3R)-4-hydroxy-3-methyl-5-oxo-1-[(1R)-1-phenylethyl]pyrrolidine-3-carboxylate
To a solution of tert-butyl(3S)-3-methyl-5-oxo-1-[(1R)-1-phenylethyl]pyrrolidine-3-carboxylate (10.0 g, 33.0 mmol) and triethyl phosphite (6.78 mL, 39.6 mmol) in anhydrous tetrahydrofuran (165 mL), lithium bistrimethylsilylamide (46.1 mL, 46.1 mmol, 1.0M solution in tetrahydrofuran) was added at −5° C., and the mixture was stirred at the same temperature for 30 minutes. After bubbling oxygen gas into the reaction mixture for 2 hours, saturated aqueous solution of ammonium chloride (150 mL) was added to the mixture in an ice bath, and the mixture was concentrated under reduced pressure. Water (100 mL) was added to the residue and the mixture was extracted with ethyl acetate (200 mL×2). The organic layer was washed with saturated aqueous solution of sodium chloride (200 mL), and dried with anhydrous sodium sulfate. After removing the solvent by distillation under reduced pressure, the residue was purified by silica gel column chromatography (hexane ethyl acetate=1:1→1:4) to obtain 9.61 g (91.3%) of the title compound as a pale yellow oily substance.

reactant | tert-butyl(3S)-3-methyl-5-oxo-1-[(1R)-1-phenylethyl]pyrrolidine-3-carboxylate | 33.0 mmol, 10.0 g | C[C@]1(CN(C(C1)=O)[C@H](C)C1=CC=CC=C1)C(=O)OC(C)(C)C | C18H25NO3
reactant | triethyl phosphite | 39.6 mmol, 6.78 mL | P(OCC)(OCC)OCC | C6H15O3P
reactant | lithium bistrimethylsilylamide | 46.1 mmol, 1.0M, 46.1 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | tetrahydrofuran | 165 mL | O1CCCC1 | C4H8O
product | tert-Butyl(3R)-4-hydroxy-3-methyl-5-oxo-1-[(1R)-1-phenylethyl]pyrrolidine-3-carboxylate | 9.61 g, 91.3% | OC1[C@@](CN(C1=O)[C@H](C)C1=CC=CC=C1)(C(=O)OC(C)(C)C)C | C18H25NO4
